US04371605
N-Tosyloxy-N-methylbenzamide was prepared by the following procedure. To a flask equipped with a stirrer were added N-hydroxy-N-methylbenzamide (1.39 g, 0.010 mol) from above, p-toluenesulfonyl chloride (1.91 g, 0.010 mol), 25 mL of THF and 2 mL of triethylamine. After 30 min at 0° followed by 1 h at room temperature, the reaction mixture was diluted with 50 mL of methylene chloride, and the solution was washed with water (4×50 mL) and dried. Evaporation of the solvent left 2.84 g of a golden oil which soon crystallized. Recrystallization from methylene chloride-hexane gave 2.04 g (69.4%) of fluffy white N-tosyloxy-N-methylbenzamide: mp 98°-99.5°; nmr (CDCl3) 7.8-7.0 (A2B2 and singlet at 7.36, 9H), 3.53 (s, 3H), 2.38 (s, 3H); ir (KBr) 1684 (vs), 1370 (s), 1180 (s), 1170 (s), 880 (m), 805 (m), 735 (m), 695 (s), 651 (m), 540 (s): uv (CH3CN) 227 (19,200), 265 (sh, 2020), 273 nm (sh, 1500); mass spectrum 305.0720 (calcd for C15H15O4NS: m+, 305.0720). Anal. Calcd for C15H15O4NS: C, 59.00; H, 4.95; N, 4.59; S, 20.96; O, 10.50. Found: C, 58.87, 58.75; H, 4.98, 5.02; N, 4.52, 4.43.

reactant | N-hydroxy-N-methylbenzamide | 0.010 mol, 1.39 g | ON(C(C1=CC=CC=C1)=O)C | C8H9NO2
reactant | p-toluenesulfonyl chloride | 0.010 mol, 1.91 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-tosyloxy-N-methylbenzamide | 2.04 g, 69.4% | S(=O)(=O)(C1=CC=C(C)C=C1)ON(C(C1=CC=CC=C1)=O)C | C15H15NO4S
